US05478858
To a solution of di-2-pyridyl thionocarbonate (494 mg) and 4-dimethylaminopyridine (0.01 g) in methylene chloride (40 mL) is added dropwise over 30 minutes, a solution of 5-amino-1,4-dimethylbenzimidazole (176 mg) in methylene chloride (20 mL). The mixture is stirred for 3 hours at room temperature, then rotary evaporated. The residue is purified by flash chromatography on silica gel, eluting with 50% ethyl acetate/hexane, to afford 1,4-dimethyl-5-benzimidazolylisothiocyanate as a white solid.

reactant | di-2-pyridyl thionocarbonate | 494 mg | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
reactant | 5-amino-1,4-dimethylbenzimidazole | 176 mg | NC1=C(C2=C(N(C=N2)C)C=C1)C | C9H11N3
catalyst | 4-dimethylaminopyridine | 0.01 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1,4-dimethyl-5-benzimidazolylisothiocyanate | CN1C=NC2=C1C=CC(=C2C)N=C=S | C10H9N3S
